US06011046
1-Acetoxy-2,3-dimethoxy-6-methyl-4-(2-methyl-2-propenyl)benzene
A suspension (200 ml) of 4-acetoxy-2,3-dimethoxy-5-methylphenol (26 g), methallyl chloride (13 ml) and potassium carbonate (18 g) in N,N-dimethylformamide was stirred under an atmosphere of argon at 65° C. for 15 hours. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by column chromatography on silica gel (hexane:ethyl acetate=4:1) to obtain the title compound (27 g, 84%) as an oil.

reactant | 4-acetoxy-2,3-dimethoxy-5-methylphenol | 200 ml, 26 g | C(C)(=O)OC1=C(C(=C(C=C1C)O)OC)OC | C11H14O5
reactant | methallyl chloride | 13 ml | C(C(C)=C)Cl | C4H7Cl
reactant | potassium carbonate | 18 g | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 1-Acetoxy-2,3-dimethoxy-6-methyl-4-(2-methyl-2-propenyl)benzene | 27 g, 84% | C(C)(=O)OC1=C(C(=C(C=C1C)CC(=C)C)OC)OC | C15H20O4
